US04686292
A suspension of 873 mg of methyl 5-amino-2-ethoxy-4-nitrobenzoate and 50 mg of 10 % palladium carbon in 50 ml of ethanol was stirred at room temperature under a hydrogen atmosphere. After the absorption of hydrogen was completed, the catalyst was removed by filtration, and the filtrate was evaporated to dryness under reduced pressure to give crude methyl 4,5-diamino-2-ethoxybenzoate.

reactant | methyl 5-amino-2-ethoxy-4-nitrobenzoate | 873 mg | NC=1C(=CC(=C(C(=O)OC)C1)OCC)[N+](=O)[O-] | C10H12N2O5
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium carbon | 50 mg | [C].[Pd]
product | methyl 4,5-diamino-2-ethoxybenzoate | NC1=CC(=C(C(=O)OC)C=C1N)OCC | C10H14N2O3
